US06489344B1
2-Naphthol (2.9 g, 20 mmol) in dry THF (40 ml) was treated with 60% NaH suspension (0.96 g) at room temperature. After hydrogen evolution ceased, 3-bromopropylphthalimide (5.36 g, 20 mmol) was added and the mixture was heated at 80° C. overnight. The reaction was cooled, diluted with ethyl acetate and water. The layers were separated and the aqueous layer extracted 3 times with ethyl acetate. The combined organic layers were then extracted 5 times with 5% aqueous potassium carbonate, dried over sodium sulfate and concentrated in vacuo. The crude product (observed as a single spot by TLC) was taken up in methanol (60 ml), treated with anhydrous hydrazine (4 ml) and refluxed for 3.5 hours. The mixture was cooled to 4° C. for several hours, then filtered. The filtrate was concentrated to dryness, then partitioned between dichloromethane and 2.5 M aqueous sodium hydroxide. The organic layer was washed with saturated sodium chloride solution, dried and concentrated in vacuo to give 3-(2-naphthyloxy)propyl amine as a beige solid, 1.14 g. The amine (1.14 g, 5.7 mmol) was treated with benzotriazole carboxamidinium 4-methylbenzenesulfonate (1.89 g, 5.7 mmol) and DIEA (1.39 ml) in a mixture of acetonitrile (8 ml) and DMF (2 ml) with shaking at room temperature overnight. Precipitation with ether gave amino(3-(2-naphthyloxy)propyl)carboxamidinium 4-methylbenzenesulfonate as a white crystalline solid. This guanidine (100 mg) was reacted (65 hours, 105° C.) with resin (100 mg) in accordance with the method described in Example 10 (i.e., Resin Method C) to give the title compound.

reactant | 2-Naphthol | 20 mmol, 2.9 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | NaH | 0.96 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 3-bromopropylphthalimide | 20 mmol, 5.36 g | BrCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C11H10BrNO2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-(2-naphthyloxy)propyl amine | C1=C(C=CC2=CC=CC=C12)OCCCN | C13H15NO
